US07319101B2
a) 6-Cyclohexanecarbonyl-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid
6-Bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid (1.26 g, 3.16 mmol, 1 eq.), LiOMe (240 mg, 6.32 mmol, 2 eq.) and cyclohexanecarboxylic acid methoxy-methyl-amide (650 mg, 3.8 mmol, 1.2 eq.) as the electrophile were reacted according to GP4, Method A. The crude product was purified using flash chromatography (silica gel, hexane/Et2O/AcOH 5:1:0.1) and subsequent recrystallization from CH2Cl2/hexane to give the title compound as a yellowish solid.

reactant | 6-Bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid | 3.16 mmol, 1.26 g, 1 eq. | BrC=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)O | C20H13BrO4
reactant | LiOMe | 6.32 mmol, 240 mg, 2 eq. | O([Li])C
reactant | cyclohexanecarboxylic acid methoxy-methyl-amide | 3.8 mmol, 650 mg, 1.2 eq. | CON(C(=O)C1CCCCC1)C | C9H17NO2
product | 6-Cyclohexanecarbonyl-2,2-diphenyl-1,3-benzodioxole-4-carboxylic acid | C1(CCCCC1)C(=O)C=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)O | C27H24O5
